US07858632B2
1-Thiophen-3-yl-butan-1-one (6.7 g. 43 mmol) in 210 mL diethyl ether was cooled to zero degrees C, and 0.6 ml glacial acetic acid was added dropwise, followed by bromine (2.26 ml, 46 mmol) dropwise. The reaction mixture was allowed to warm to room temperature over hours. The reaction mixture was washed the with water, 1 N sodium thiosulfate, brine, and then dried over magnesium sulfate. Solvent was removed under reduced pressure to give an oil which was chromatographed (5% EtOAc/Hexanes) to give 6.1 g 2-Bromo-1-thiophen-3-yl-butan-1-one, 79% , as an oil.

reactant | 1-Thiophen-3-yl-butan-1-one | 43 mmol, 6.7 g | S1C=C(C=C1)C(CCC)=O | C8H10OS
reactant | acetic acid | 0.6 ml | C(C)(=O)O | C2H4O2
reactant | bromine | 46 mmol, 2.26 ml | BrBr | Br2
solvent | diethyl ether | 210 mL | C(C)OCC | C4H10O
product | 2-Bromo-1-thiophen-3-yl-butan-1-one | 6.1 g | BrC(C(=O)C1=CSC=C1)CC | C8H9BrOS
